Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headaches, double vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old currently on hormone replacement therapy for
transition from male to female presents with newly identified 
3cm
sellar mass on CT scan performed at ___ for
workup of headache for one week with double vision. The patient
received 10 mg Decadron prior to transfer in addition to
Benadryl, Toradol, and Reglan.

 
Past Medical History:
Current hormone therapy underway for transition from male to
female. Healthy without past medical history.
 
Social History:
___
Family History:
Maternal and Paternal grandparents with cancer 
 
Physical Exam:
On admission:
PHYSICAL EXAM:

Temp: 97.8  HR: 68  BP: 101/74  RR: 18  O2Sat: 97% RA 
 
Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL         
EOMs: Intact 

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3mm
bilaterally. Visual fields notable for right-sided field cut. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger

ON DISCHARGE:

All vital signs stable, Eyes open spontaneous, AOx3, PERRL 
3-2mm, EOMI, Face symmetric, tongue midline. No pronator Drift. 
Speech fluent, comprehension intact. Full motor strength ___ 
throughout. 

Ophthalmology Exam ___:

Visual field interpretation for ___ HVF on ___

OD: Fair reliability. Good fixation, high false negative errors.
MD -7.12. Superior greater than interior patchy peripheral field
deficit most concentrated superonasal. 

OS: Poor reliability with ___ fixation losses and 22% false
negative errors. MD -10.61. There is superior dense and
inferotemporal patchy visual field deficit encroaching on the
visual axis. 

 
Pertinent Results:
___ 04:40AM BLOOD FSH-0.6* LH-0.2* Prolact-5.6 TSH-0.70
___ 04:40AM BLOOD T4-4.1* Free T4-0.7*
___ 04:40AM BLOOD Cortsol-0.9* Testost-<3*
___ 04:40AM BLOOD Estradl-<5
MR PITUITARY ___ CONTRAST Study Date of ___ 9:10 AM:
Final Report 
EXAMINATION:  MR PITUITARY ___ CONTRAST ___ MR ___ 
  
INDICATION:  ___ year old woman with possible pituitary tumor on 
outside CT, visual field changes. 
  
TECHNIQUE:  Sagittal and coronal T1 weighted imaging were 
performed along with coronal T2 imaging. Sagittal and coronal T1 
weighted imaging were repeated after the uneventful intravenous 
administration of 6 mL of Gadavist contrast. 
  
COMPARISON  None.  The outside CT is not available. 
  
FINDINGS:  
  
There is a sellar mass extending into the suprasellar cistern, 
which measures 3.4 cm transverse, 2.9 cm craniocaudad, 2.1 cm 
AP, images 5:8 and 6:9.  The mass is heterogenous, demonstrating 
predominantly low and intermediate signal on precontrast T1 
weighted images with hyperintensity anteriorly and superiorly, 
mixed signal on T2 weighted images with foci of hypointensity 
and ovoid area of hyperintensity anteriorly/superiorly, and 
irregular, predominantly peripheral contrast enhancement on 
postcontrast images.  The mass extends into the cavernous 
sinuses, abutting approximately 180 degrees of the internal 
carotid artery circumference on each side, without arterial 
narrowing.  The mass compresses the optic chiasm, with edema 
noted in the chiasm and post chiasmatic optic nerves.  The 
infundibulum is elevated and essentially midline. 
  
Partially visualized brain parenchyma appears unremarkable.  
There is a mucous retention cyst along the floor of the 
partially visualized left maxillary sinus.  There is mild 
mucosal thickening in bilateral partially visualized sphenoid 
sinuses, and probably also in the ethmoid air cells. 
  
IMPRESSION:  
1. 3.4 x 2.9 x 2.1 cm heterogenous, peripherally enhancing 
sellar mass 
extending into the suprasellar cistern and medial cavernous 
sinuses, abutting approximately 180 degrees of internal carotid 
artery circumference on each side.  Small T1 hyperintense 
component along the anterior superior aspect of the mass could 
represent proteinaceous material, blood products, or 
mineralization. Diagnostic considerations include a cystic 
macroadenoma versus a craniopharyngioma. 
2. The mass compresses the optic chiasm with edema in the chiasm 
and post 
chiasmatic optic nerves. 
  
RECOMMENDATION(S): Comparison with the outside CT would be 
helpful to assess for calcifications within the mass. 
  
NOTIFICATION:  Results and recommendations were discussed with 
the consulting endocrinology team by ___, M.D. in 
person on ___ at approximately 10:45, at the time of 
image review.  The impression and recommendations above were 
subsequently transmitted to the emergency department in an 
electronic wet read. 

CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST Study Date of 
___ 10:00 ___ 

Final Report 
EXAMINATION:  CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST Q116 
CT HEADSINUS 
  
INDICATION: ___ year old woman with headaches and double vision 
found to have new sellar mass// Please perform paranasal CT with 
sellar cuts for surgical planning in ___ F with new sellar mass 

  
TECHNIQUE:  Helically-acquired multidetector CT axial images 
were obtained 
through the maxillofacial bones and mandible. Intravenous 
contrast was not 
administered. Axial images reconstructed with soft tissue and 
bone algorithm to display images with 1.25 mm slice. Coronal and 
sagittal reformations were also constructed.  All produced 
images were evaluated in production of this report. 
  
DOSE: Acquisition sequence: 
1) Spiral Acquisition 2.6 s, 20.5 cm; CTDIvol = 25.8 mGy (Head) 
DLP = 528.8 mGy-cm. Total DLP (Head) = 529 mGy-cm. 
  
COMPARISON:  MRI from ___ 17. 
  
FINDINGS:  
No acute fractures are identified. Imaged portion of the 
bilateral mastoids appear normal. The globes, extraocular 
muscles, optic nerves, and retrobulbar fat appear normal. The 
visualized upper aerodigestive tract appears normal. The 
mandible and temporomandibular joints appear normal. 
The sella is expanded, measuring 2.1 x 2.0 cm, containing soft 
tissue density, consistent with given history sellar mass.  
Evaluation of the optic chiasm is limited on the current 
modality.  No calcification is noted within the sellar mass. 
  
The nasal septum is mildly deviated to the right with a small 
spur contacting the middle turbinate (02:50). The ostiomeatal 
units are patent. The cribriform plates are intact. The lamina 
papyracea are intact.  A small Haller cell is seen on the right. 
Minimal mucosal thickening is noted in the bilateral sphenoid 
sinuses.  7 mm osteoma is seen in the left frontal sinus. 
Periapical lucency in the left posterior molar is associated 
dehiscence of the superior maxilla.  Mucous retention cyst and 
mild mucosal thickening is noted in the left maxillary sinus, 
possibly related to the periapical lucency. 
  
IMPRESSION:  
1. Expanded sella measuring 2.1 x 2.0 cm, consistent with given 
history of 
sellar mass.  No calcification is noted within the sellar mass. 
2. Periapical lucency in the left posterior molar with 
dehiscence of the 
superior maxilla and associated minimal mucosal thickening of 
the left 
maxillary sinus. 
3. 7 mm osteoma in the left frontal sinus. 
4. Mild mucosal thickening of the bilateral sphenoid sinuses. 

 
Brief Hospital Course:
Ms. ___ was admitted for further workup after a CT head 
showed a pituitary lesion. 

# Pituitary Lesion
A MRI brain confirmed a 3.4 x 2.9 x 2.1 cm heterogenous, 
peripherally enhancing sellar mass with compression to the optic 
chiasm with edema in the chiasm and post 
chiasmatic optic nerves. Endocrine was consulted and labs were 
sent. The prolactin was normal thus medical treatment is not 
feasible. It was determined that the mass was not due to excess 
estrogen given the normal prolactin levels and the patient was 
instructed she could restart her estrogen therapy. The cortisol 
level was low and steroids were started to help with the edema 
to the optic chiasm and low cortisol. Levothyroxine was 
scheduled to start ___ AM given the low T4. Ophthalmology was 
consulted for formal visual field testing which documented a 
right hemianopsia superior greater than inferior. 

Surgery is scheduled for ___ and the patient received a 
surgical letter with instructions. 

Patient remained medically stable and cleared for discharge on 
___. 
Given the visual field losses the patient is experiencing in 
combination with imaging and lab findings, we recommend the 
patient be seen at another institution for more urgent surgical 
resection of her lesion, as our surgeon who performs 
transphenoidal tumor resections is not available until 
___. This has been extensively discussed with the patient 
and she is being discharged with all imaging and workup done 
here at ___. 

 
Medications on Admission:
- Estradiol 4mg every morning, 2mg every evening 
- Spirinolactone 100mg BID 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Pain - 
Moderate 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every six (6) hours Disp #*30 Tablet 
Refills:*0 
2.  Dexamethasone 4 mg PO Q8H Duration: 14 Days 
Please continue taking Dexamethasone until your scheduled 
surgery.  
RX *dexamethasone 4 mg 1 tablet(s) by mouth three times a day 
Disp #*45 Tablet Refills:*0 
3.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine [Levo-T] 25 mcg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*1 
4.  Omeprazole 20 mg PO DAILY 
Please continue taking this medication while taking 
dexamethasone.  
RX *omeprazole 20 mg 1 (One) capsule(s) by mouth once a day Disp 
#*14 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pituitary lesion
Visual field deficit
Hypothyroid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were admitted after a CT head found a pituitary mass. You 
were admitted for further workup and surgical planning. While 
you were inpatient, Endocrine and Ophthalmology both saw you. 
Lab results showed that the mass would not be able to be treated 
with medication and surgery would be indicated. We scheduled you 
for elective surgery on ___ with Dr. ___ Dr. ___.

NOTHING TO EAT OR DRINK AFTER MIDNIGHT THE NIGHT BEFORE SURGERY. 


STOP TAKING ASPIRIN AND/OR ASPIRIN PRODUCTS, IBUPROFEN, ALEVE 
AND/OR NAPROSYN 7 DAYS PRIOR TO SURGERY.

IF YOU ARE TAKING COUMADIN, PLEASE LET US KNOW.

- You have been discharged on Dexamethasone (steroid treatment), 
take it daily as prescribed.  
- If you are required to take Dexamethasone, an oral steroid, 
make sure you are taking a medication to protect your stomach 
(Prilosec/Omeprozole), as this medication can cause stomach 
irritation.  Dexamethasone should also be taken with a glass of 
milk or with a meal. 

If you have any questions or concerns regarding you diagnosis or 
treatment plan please call ___.

Given the visual field losses you are experiencing in 
combination with imaging and lab findings, we recommend that 
you be seen at another institution for more urgent surgical  
resection of pituitary lesion, as our surgeon who performs 
transphenoidal tumor resections is not available until 
___. You are being discharged with all imaging and workup 
done 
here at ___. 
 
In the case that you do go to another facility for surgery 
sooner than we can provide, please call to cancel your future 
appointments and surgery scheduled here. Please call 
___ to do so. If you are unable to get this surgery at 
another facility, or choose to continue to proceed with 
treatment here at ___, we are happy to continue with your 
surgical plan for ___. 

 
Followup Instructions:
___